US06118016
A solution of 3.10 g (6.5 mmol) of crude 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid in 30 mL of ethanol was treated with 1.28 mL (6.5 mmol, 1 equivalent) of dicyclohexylamine at ambient temperature producing solids within five minutes. This mixture was stirred at ambient temperature overnight and then at 0° C. for five hours. White solids were isolated by filtration, washed with 10 mL of cold ethanol, and air dried giving 2.89 g (67%) of 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid, dicyclohexylaminium salt.

reactant | 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid | 6.5 mmol, 3.10 g | C(C)OC(=O)CCN(C1(CCCC1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C23H26FNO7S
reactant | dicyclohexylamine | 6.5 mmol, 1.28 mL, 1 equivalent | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid, dicyclohexylaminium salt | 2.89 g, 67% | C1(CCCCC1)[NH2+]C1CCCCC1.C(C)OC(=O)CCN(C1(CCCC1)C(=O)[O-])S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | InChI=1S/C23H26FNO7S.C12H23N/c1-2-31-21(26)13-16-25(23(22(27)28)14-3-4-15-23)33(29,30)20-11-9-19(10-12-20)32-18-7-5-17(24)6-8-18;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h5-12H,2-4,13-16H2,1H3,(H,27,28);11-13H,1-10H2
